US09388173B2
Step 5: 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(3-methyl-3H-imidazo[4,5-b]pyridin-5-yl)pyridin-2-yl)amino)propan-2-ol
A mixture of 5-bromo-3-methyl-3H-imidazo[4,5-b]pyridine (100 mg, 0.47 mmol), 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)amino)propan-2-ol (230 mg, 0.56 mmol), K2CO3 (195 mg, 1.41 mmol) and Pd(dppf)Cl2 (10 mg) in a solution of dioxane (4 mL) and H2O (1 mL). The mixture was stirred then 120° C. for 30 min under microwave mediated heating. After cooling, the catalyst was filtered and the filtrate concentrated and purified by Prep-HPLC to give the desired product 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(3-methyl-3H-imidazo[4,5-b]pyridin-5-yl)pyridin-2-yl)amino)propan-22-ol (52 mg, 26.7%). 1HNMR (CH3OD, 400 MHz) δ: 8.38-8.26 (m, 1H), 8.07-7.92 (m, 2H), 7.78-7.68 (m, 1H), 7.33-7.26 (m, 1H), 7.26-7.18 (m, 1H), 7.10-6.97 (m, 3H), 6.96-6.88 (m, 1H), 4.15-4.03 (m, 1H), 3.88 (s, 3H), 3.67 (s, 2H), 3.60-3.50 (m, 1H), 3.46-3.36 (m, 1H), 2.92-2.72 (m, 4H), 2.72-2.55 (m, 2H). LCMS (m/z): 415.2 [M+H]+

reactant | 5-bromo-3-methyl-3H-imidazo[4,5-b]pyridine | 0.47 mmol, 100 mg | BrC1=CC=C2C(=N1)N(C=N2)C | C7H6BrN3
reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)amino)propan-2-ol | 0.56 mmol, 230 mg | C1N(CCC2=CC=CC=C12)CC(CNC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C23H32BN3O3
reactant | K2CO3 | 1.41 mmol, 195 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 1 mL | O | H2O
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((4-(3-methyl-3H-imidazo[4,5-b]pyridin-5-yl)pyridin-2-yl)amino)propan-2-ol | C1N(CCC2=CC=CC=C12)CC(CNC1=NC=CC(=C1)C1=CC=C2C(=N1)N(C=N2)C)O | C24H26N6O
